US07056943B2
1-Benzyl-5-bromo-1H-indole
A solution of 5-bromoindole (5.02 g, 25.6 mmol) in DMF (50 mL) was cooled in an ice bath. Sodium hydride (2.30 g of 60% dispersion in oil, 57.5 mmol) was added. After stirring for 40 minutes under nitrogen at room temperature, the reaction mixture was again cooled in an ice bath and benzyl bromide (6.7 mL, 56 mmol) was added. The reaction mixture was stirred for 2 hours, poured into excess water, acidified with 2N hydrochloric acid and extracted with ethyl acetate. The organic phase was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated to dryness. The residue was purified by flash chromatography (Biotage apparatus) using hexane as an eluant. Dyring at 60° C. for 35 minutes yielded the title compound as a white solid (5.69 g, 78%), mp 93–95° C. Mass spectrum (+ESI, [M+H]+) m/z 286; 1HNMR (500 MHz, DMSO-d6): δ7.7 (d,1H, J=1.8 Hz), 7.55 (d, 1H, J=3.1 Hz), 7.4 (d, 1H, J=8.7 Hz), 7.15–7.30 (m, 6H), 6.45 (dd, 1H, J=3.2 Hz and 0.6 Hz), and 5.45 ppm (s, 2H).

reactant | 5-bromoindole | 25.6 mmol, 5.02 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | Sodium hydride | 57.5 mmol, 2.30 g | [H-].[Na+]
reactant | benzyl bromide | 56 mmol, 6.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-Benzyl-5-bromo-1H-indole | 5.69 g, 78% | C(C1=CC=CC=C1)N1C=CC2=CC(=CC=C12)Br | C15H12BrN
